data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_438031_1,[C:1](\[C:4]([C:2]([C:3]([O:6][H:13])([H:14])[H:15])([O:8][H:10])[H:11])([H:16])[H:17])(=[N:5]/[H:12])[O:7][H:9]>>[C:1]1([N:5]([H:12])[H:13])([O:7][H:9])[C:4]([H:16])([H:17])[C:2]([O:8][H:10])([H:11])[C:3]([H:14])([H:15])[O:6]1,40.96319999998301
MR_514810_2,[C:1]([C:2]([O:6][H:7])([H:14])[H:15])([N:3]([H:9])[H:10])([N:4]([H:11])[H:12])[N:5]([H:8])[H:13]>>[C:1]([C:2]([N:4]([H:11])[H:12])([H:14])[H:15])([N:3]([H:9])[H:10])([N:5]([H:8])[H:13])[O:6][H:7],71.32917999996948
MR_113401_1,[C:1]([C:2]([C:4]([H:16])([H:17])[H:18])([H:11])[H:12])([N:5]([H:9])[H:10])([O:6][O:7][C:3]([H:13])([H:14])[H:15])[H:8]>>[C:1]([N:5]([H:9])[H:10])([O:6][C:2]([C:4]([H:16])([H:17])[H:18])([H:11])[H:12])([O:7][C:3]([H:13])([H:14])[H:15])[H:8],51.68027249999796
MR_203786_1,[C:1]([N:6]([C:7]([C:2]([H:14])([H:15])[H:16])=[C:9]([C:4]([H:20])([H:21])[H:25])[C:5]([H:22])([H:23])[H:24])[C:8]([C:3]([H:17])([H:18])[H:19])=[C:10]([H:26])[H:27])([H:11])([H:12])[H:13]>>[C:1](/[N:6]=[C:7](/[C:2]([H:14])([H:15])[H:16])[C:9]([C:4]([H:20])([H:21])[H:25])([C:5]([H:22])([H:23])[H:24])[C:8]([C:3]([H:17])([H:18])[H:19])=[C:10]([H:26])[H:27])([H:11])([H:12])[H:13],59.00068750002802
MR_116175_0,[C:1]([C:2]([C:3]([O:5][H:9])([O:6][H:10])[O:7][H:8])([H:12])[H:13])(=[O:4])[H:11]>>[C:1]([C:2]([C:3]([O:6][H:10])=[O:7])([H:12])[H:13])([O:4][H:8])([O:5][H:9])[H:11],32.852762499950074
MR_159433_0,[C:1]([N:2]([N:5][N:4][O:3][H:6])[H:7])([H:8])([H:9])[H:10]>>[C:1](/[N:2]=[N:5]\[N:4]([O:3][H:6])[H:7])([H:8])([H:9])[H:10],43.02955749997366
MR_426964_1,[C:1]([N:3]([O:8][H:9])[H:10])(/[C:4](=[C:5](\[C:2]([H:17])([H:18])[H:19])[N:7]([H:13])[H:14])[N:6]([H:11])[H:12])([H:15])[H:16]>>[C:1]1([H:15])([H:16])[N:3]([O:8][H:9])[C@@:4]1([C@:5]([C:2]([H:17])([H:18])[H:19])([N:7]([H:13])[H:14])[H:10])[N:6]([H:11])[H:12],57.55806499999636
MR_29880_1,[C:1]([C:3]([N:2](/[C:4]([N:5]([H:10])[H:11])=[C:7](\[N:6]([H:12])[H:13])[H:14])[H:9])=[O:8])([H:15])([H:16])[H:17]>>[C:1]([C:3]([C@@:7](/[C:4](=[N:2]/[H:9])[N:5]([H:10])[H:11])([N:6]([H:12])[H:13])[H:14])=[O:8])([H:15])([H:16])[H:17],48.81761750002028
MR_157191_0,[C:1]([N:3]([C:5](=[C:6]([H:16])[H:17])[O:7][C:4]([C:2]([H:13])([H:14])[H:15])=[O:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]([N:3]([C:5]([C:6]([C:4]([C:2]([H:13])([H:14])[H:15])=[O:8])([H:16])[H:17])=[O:7])[H:9])([H:10])([H:11])[H:12],30.802720000025232
MR_607912_1,[C:1](/[C:3](=[C:2]([N:4]([H:11])[H:12])/[N:7]=[N:8]/[H:15])[N:5]([H:13])[H:14])([O:6][H:10])=[O:9]>>[C:1](/[C:2](=[C:3]([N:5]([H:13])[H:14])/[N:7]=[N:8]/[H:15])[N:4]([H:11])[H:12])([O:6][H:10])=[O:9],64.18948500001818
MR_160791_2,[C:1]([C:2]([O:5][C:3]([H:14])([H:15])[H:16])([H:12])[H:13])([N:4]([H:10])[H:11])([O:6][H:8])[O:7][H:9]>>[C:1]([C:2]([O:7][H:9])([H:12])[H:13])([N:4]([H:10])[H:11])([O:5][C:3]([H:14])([H:15])[H:16])[O:6][H:8],73.27819500000672
MR_81676_1,[C:1]([C:4]([C:2]([H:10])([H:14])[H:15])=[N:6][N:3]([C:5](=[O:7])[H:9])[H:8])([H:11])([H:12])[H:13]>>[C:1]([C:4]([C:2]([H:10])([H:14])[H:15])([C:5](=[O:7])[H:9])/[N:6]=[N:3]/[H:8])([H:11])([H:12])[H:13],63.40009000001373
MR_137622_1,[C:1]1([N:5]([H:10])[H:11])([H:9])[C:4]([C:2]([O:6][H:8])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])[O:7]1>>[C:1]([C:2]([O:6][H:8])([H:12])[H:13])([C:4]([C:3]([H:14])([H:15])[H:16])=[O:7])([N:5]([H:10])[H:11])[H:9],33.32966249999444
MR_540666_2,[C:1]([C:2]([C:4]([C:3]([O:5][H:9])=[O:7])([O:8][H:10])[H:14])([H:12])[H:13])(=[O:6])[H:11]>>[C:1]([C:2]([C:4]([C:3]([O:5][H:9])=[O:7])=[O:8])([H:12])[H:13])([O:6][H:10])([H:11])[H:14],60.87440250000569
MR_249198_2,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])=[C:4]([N:5]([H:11])[H:12])[C:6]([O:7][H:9])([O:8][H:10])[H:13]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])(/[C:4]([N:5]([H:11])[H:12])=[C:6](/[O:8][H:10])[H:13])[O:7][H:9],55.43586000000403
MR_596847_1,[C:1](/[C:4](=[C:5](/[C:2]([H:16])([H:17])[H:18])[N:3](/[C:6](=[N:8]/[H:11])[H:12])[H:10])[O:7][H:9])([H:13])([H:14])[H:15]>>[C:1]([C:4](/[C:5]([C:2]([H:16])([H:17])[H:18])=[N:3]/[H:10])(/[C:6](=[N:8]/[H:11])[H:12])[O:7][H:9])([H:13])([H:14])[H:15],64.94374000000434
MR_579243_2,[C:1](/[C:2]([N:3]([H:10])[H:11])=[N:7]\[H:12])(=[C:4](\[O:6][H:9])[H:13])[O:5][H:8]>>[C:1]1([O:5][H:8])=[C:2]([N:3]([H:10])[H:11])[N:7]([H:12])[C@:4]1([O:6][H:9])[H:13],45.40903750002983
MR_344080_0,[C:1](/[N:6]=[C:3]([C:4](=[C:2](/[O:5][H:7])[H:8])\[H:10])/[H:9])([H:11])([H:12])[H:13]>>[C:1]([N:6]1[C:2]([O:5][H:7])([H:8])[C:4]([H:10])=[C:3]1[H:9])([H:11])([H:12])[H:13],65.14453999999674
MR_688249_1,[C:1]([C:5]([C:2]([H:17])([H:18])[H:19])[C:7]([C:4]([C:3]([N:6]([H:12])[H:13])[O:8][H:10])[O:9][H:11])[H:14])([H:15])([H:16])[H:20]>>[C:1]([C:5]1([C:2]([H:17])([H:18])[H:19])[C@:3]([N:6]([H:12])[H:13])([O:8][H:10])[C:4]([O:9][H:11])=[C:7]1[H:14])([H:15])([H:16])[H:20],45.87526999999412
